US06355800B1
1 N Aqueous sodium hydroxide (70 ml) and water (30 ml) were cooled at 5 to 10° C., and 4-acetyl-1-piperazinecarboxamide (10.0 g) was added thereto and dissolved under stirring. 10% Aqueous sodium hypochlorite (43.5 ml) was added in one portion thereto at the same temperature and allowed to react for 1 hour at the same temperature, and after the temperature was raised, the mixture was further reacted for 2 hours at a temperature of 15 to 20° C. The reaction solution containing 4-acetyl-1-piperazinylcarbamic acid was adjusted to pH 6.5-7.5 with 1 N hydrochloric acid (about 23 ml), followed by adding tetrahydrofuran (100 ml). A solution of 4-fluorobenzoyl chloride (11.1 g) in tetrahydrofuran (20 ml) was added dropwise thereto at 20 to 30° C. over the period of 1 hour. Because the pH was decreased during the addition, the reaction solution was kept at pH 6.0 to 7.0 with 1 N aqueous sodium hydroxide. After this dropwise addition was finished, the solution was further reacted for 2 hours at the same temperature and at the same pH. The reaction solution was concentrated to 50 ml under reduced pressure, then cooled on ice and stirred at 5 to 10° C. for 1 hour to precipitate N-(4-acetyl-1-piperazinyl)-4-fluorobenzamide. The resultant crystals were collected at the same temperature by filtration, washed with cold water (50 ml) and dried under reduced pressure to give N-(4-acetyl-1-piperazinyl)-4-fluorobenzamide (8.35 g). NMR (DMSO-d6, δ): 2.03 (3H, s), 2.77-2.92 (4H, m), 3.50-3.52 (4H, m), 7.23-7.34 (2H, m), 7.82-7.89 (2H, m), 9.58 (1H, s)

reactant | sodium hydroxide | 1 N, 70 ml | [OH-].[Na+]
reactant | 4-acetyl-1-piperazinecarboxamide | 10.0 g | C(C)(=O)N1CCN(CC1)C(=O)N | C7H13N3O2
reactant | sodium hypochlorite | 43.5 ml | Cl[O-].[Na+]
reactant | 4-acetyl-1-piperazinylcarbamic acid | C(C)(=O)N1CCN(CC1)NC(O)=O | C7H13N3O3
reactant | hydrochloric acid | 1 N, about 23 ml | Cl | ClH
reactant | 4-fluorobenzoyl chloride | 11.1 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | N-(4-acetyl-1-piperazinyl)-4-fluorobenzamide | 8.35 g | C(C)(=O)N1CCN(CC1)NC(C1=CC=C(C=C1)F)=O | C13H16FN3O2
